US07842817B2
N-[1-(4-Chlorobenzyl)benzimidazol-2-yl]-3,4-dichlorobenzylamine
The title compound was prepared by Procedure C in two steps from 2-aminobenzimidazole, 4-chlorobenzyl chloride and, subsequently, 3,4-dichlorobenzaldehyde. The product was isolated by preparative LCMS to give the title compound as the free base (yellowish oil). Alternatively, the title compound can be prepared in two steps from 2-chlorobenzimidazole, 4-chlorobenzyl chloride and 3,4-dichlorobenzylamine by use of either Procedure B or by Procedure D. MS(ES+) m/z 416 (M+, 100). 1NMR (CDCl3) δ 4.70 (s, 2H), 5.23 (s, 2H), 7.08-7.33 (m, 11H), 7.46-7.50 (m, 1H).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | N-[1-(4-Chlorobenzyl)benzimidazol-2-yl]-3,4-dichlorobenzylamine | ClC1=CC=C(CN2C(=NC3=C2C=CC=C3)NCC3=CC(=C(C=C3)Cl)Cl)C=C1 | C21H16Cl3N3
